US04696949
1,1,2-triphenylpentane-1,5-diol
The compound is prepared from 6.0 g of magnesium turnings in 42 ml of dry tetrahydrofuran, 39.3 g of bromobenzene in 84 ml of dry tetrahydrofuran and 25.4 g of 5-hydroxy-1,2-diphenylpentan-1-one in 75 ml of dry tetrahydrofuran according to the procedure described in Example 1(b). The product is recrystallized from toluene. The yield is 14.9 g (45%) of a product having m.p. 120°-2° C.

reactant | magnesium | 6.0 g | [Mg] | Mg
reactant | bromobenzene | 39.3 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 5-hydroxy-1,2-diphenylpentan-1-one | 25.4 g | OCCCC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C17H18O2
solvent | tetrahydrofuran | 42 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 84 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 1,1,2-triphenylpentane-1,5-diol | C1(=CC=CC=C1)C(C(CCCO)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C23H24O2
